US09353117B2
5,7-Dimethylpyrazolo[1,5-a]pyrimidine-3-carboxylic acid (722 mg, 3.78 mmol), 4-ethynylaniline (442 mg, 3.78 mmol), and HATU (1436 mg, 3.78 mmol) were taken up in DMF (10 ml) and then treated with diisopropylethylamine (1.979 ml, 11.33 mmol). The contents stirred at room temperature overnight. The product had precipitated from reaction mixture. The reaction was diluted with water, filtered through a Büchner funnel under house vacuum. The residue was washed with water (×2), then CH2Cl2, diethyl ether, and air dried to obtain N-(4-ethynylphenyl)-5,7-dimethylpyrazolo[1,5-a]pyrimidine-3-carboxamide (500 mg, 1.72 mmol, 46% yield). LC-MS: rt (min)=3.65. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.71 (s, 3H), 2.77 (s, 3H), 4.11 (s, 1H), 7.21 (s, 1H), 7.49 (d, J=8.6 Hz, 2H), 7.77 (d, J=8.6 Hz, 2H), 8.65 (s, 1H), 10.31 (s, 1H).

reactant | 5,7-Dimethylpyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 3.78 mmol, 722 mg | CC1=NC=2N(C(=C1)C)N=CC2C(=O)O | C9H9N3O2
reactant | 4-ethynylaniline | 3.78 mmol, 442 mg | C(#C)C1=CC=C(N)C=C1 | C8H7N
reactant | HATU | 3.78 mmol, 1436 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 11.33 mmol, 1.979 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-(4-ethynylphenyl)-5,7-dimethylpyrazolo[1,5-a]pyrimidine-3-carboxamide | 1.72 mmol, 500 mg, 46% yield | C(#C)C1=CC=C(C=C1)NC(=O)C=1C=NN2C1N=C(C=C2C)C | C17H14N4O
